US05858995
A mixture of 3-bromo-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan (165 mg), 2-(tributylstannyl)pyridine (213 mg) and tetrakis(triphenylphosphine)palladium (10 mg) in 1,2-dimethoxyethane (3 ml) was refluxed for 18 hours. The reaction mixture was evaporated in vacuo and the residue was purified by column chromatography on silica gel. The obtained oil was dissolved in methanolic hydrogen chloride and to the solution was evaporated in vacuo. The residue was crystallized from ethyl acetate to give 7-(2,6-dichlorobenzoylamino)-2-methyl-3-(pyridin-2-yl)benzo[b]furan hydrochloride (45 mg).

reactant | 3-bromo-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan | 165 mg | BrC=1C2=C(OC1C)C(=CC=C2)NC(C2=C(C=CC=C2Cl)Cl)=O | C16H10BrCl2NO2
reactant | 2-(tributylstannyl)pyridine | 213 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2,6-dichlorobenzoylamino)-2-methyl-3-(pyridin-2-yl)benzo[b]furan hydrochloride | 45 mg | Cl.ClC1=C(C(=O)NC2=CC=CC3=C2OC(=C3C3=NC=CC=C3)C)C(=CC=C1)Cl | InChI=1S/C21H14Cl2N2O2.ClH/c1-12-18(16-9-2-3-11-24-16)13-6-4-10-17(20(13)27-12)25-21(26)19-14(22)7-5-8-15(19)23;/h2-11H,1H3,(H,25,26);1H
